US05126488
A potassium hydride dispersion (35 wt. % in mineral oil, 952 mg, 8.30 mmole), under argon, was washed with hexane (3 ×15 ml) to remove the mineral oil, the remnants of hexane were removed with a stream of argon and tetrahydrofuran (40 ml) added. To the stirred suspension of potassium hydride in tetrahydrofuran was added a solution of 19-(trifluoroacetamido)androst-4-ene-3,17-dione [Lovett et al., J. Med. Chem., 27, 734 (1984)] (3.00 g, 7.55 mmole) in tetrahydrofuran (40 ml). After the cessation of gas evolution, 18-crown-6 (2.99 g, 11.32 mmole) was added followed by (2-methoxyethoxy)methyl chloride (1.21 ml, 10.57 mmole), the reaction stirred at room temperature for 1 hour and then refluxed for 25 hours. The reaction was allowed to cool to room temperature and then concentrated to about 1/4 the original volume. To the residue was added ethyl ether (100 ml) followed by methylene chloride (50 ml) and then water (100 ml)/saturated aqueous potassium chloride (100 ml). The layers were separated and the organics washed with satd aqueous potassium chloride (3×100 ml), dried (Na2SO4) and concentrated to give a yellow oil. Flash chromatography (7 ×14 cm silica gel column) eluting with ethyl acetate/hexane (65:35) gave 19-[N-[(2-methoxyethoxy)methyl]trifluoroacetamido]androst-4-ene-3,17-dione (1.09 g, 30%) as an oily, yellow foam.

reactant | 19-(trifluoroacetamido)androst-4-ene-3,17-dione | 7.55 mmole, 3.00 g | FC(C(=O)NC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O)(F)F | C21H26F3NO3
reactant | 18-crown-6 | 11.32 mmole, 2.99 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (2-methoxyethoxy)methyl chloride | 10.57 mmole, 1.21 ml | COCCOCCl | C4H9ClO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 19-[N-[(2-methoxyethoxy)methyl]trifluoroacetamido]androst-4-ene-3,17-dione | 1.09 g, 30% | COCCOCN(C(C(F)(F)F)=O)C[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C25H34F3NO5
